2125-09-19 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - f/u on CT scan: Necrotic left kidney with ?abscess within the
   capsule. Urology consulted and thought maybe renal vein thrombosis
   occured first then kidney got infected. Got a MRI/MRA overnight: wet
   read does not show any vasculature abnormalities
   - Urology wants to ask hem/onc if screening for Factor V leiden would
   be beneficial since dad had some clotting disorder and she may be
   clotting some.
   - trend DIC labs; OK...not DIC, yet.
   - RUQ: no cholecystitis
   - cefepime/flagyl/vanc
   - spin urine: not done
   - central line- Not done...patient continued to be tachycardic and
   febrile.
   -  echo: 1+MR, normal EF and wall motion; High BNP
   - [**9-14**] labs from OSH: WBC 14.7, HCT 42.8, Plt 324, N85, Band1, L 6,
   M6, E2, Na 139 K 3.4, cl 105, HCO3 23, BUN 13, Cr 0.8, glu 109
   - Access has been an issue. PIV was not working, IV nurse able to put a
   20 guage in hand. Has one other that is not working that great, but
   kept in for emergency.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash; itching p
   Codeine
   Rash; itching p
   Last dose of Antibiotics:
   Cefipime - [**2125-9-18**] 11:00 AM
   Vancomycin - [**2125-9-18**] 08:11 PM
   Metronidazole - [**2125-9-19**] 12:22 AM
   Infusions:
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2125-9-18**] 01:01 PM
   Morphine Sulfate - [**2125-9-19**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-19**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 38.1
C (100.6
   HR: 126 (120 - 151) bpm
   BP: 99/54(65) {99/54(65) - 139/94(103)} mmHg
   RR: 14 (14 - 31) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  5,630 mL
                                                                    183 mL
   PO:
                                                                    200 mL
             TF:
   IVF:
                                                                  5,430 mL
                                                                    183 mL
   Blood products:
   Total out:
                                                                  2,800 mL
                                                                    860 mL
   Urine:
                                                                  2,800 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,830 mL
                                                                   -677 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///16/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dry MM
   Cardiovascular: S4, (Murmur: Systolic), 1/6 SEM, tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R > L base)
   Abdominal: Soft, Bowel sounds present, Tender: RUQ > LUQ, Left CVA
   tenderness
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, Rash: 1mm erthyematous macules at sites of
   follicules on BL shins. No ecchymoses.
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   43 K/uL
   9.7 g/dL
   97 mg/dL
   1.0 mg/dL
   16 mEq/L
   4.5 mEq/L
   14 mg/dL
   110 mEq/L
   136 mEq/L
   29.9 %
   2.5 K/uL
        [image002.jpg]
                            [**2125-9-18**]  10:23 AM
                            [**2125-9-18**]  12:52 PM
                            [**2125-9-18**]  08:30 PM
   WBC
   2.8
   2.5
   Hct
   28.5
   29.9
   Plt
   55
   38
   43
   Cr
   1.0
   Glucose
   97
   Other labs: PT / PTT / INR:13.9/27.5/1.2, Alk Phos / T Bili:/0.5,
   Differential-Neuts:80.0 %, Band:0.0 %, Lymph:10.0 %, Mono:8.0 %,
   Eos:2.0 %, D-dimer:8486 ng/mL, Fibrinogen:1024 mg/dL, LDH:739 IU/L,
   Ca++:7.8 mg/dL, Mg++:1.4 mg/dL, PO4:2.7 mg/dL
   Micro: Pending
   Radiology: MRI pelvis pending; CT final read pending
   Abdominal U/S: Enlarged and heterogeneous left kidney, consistent with
   given history ofpyelonephritis, with a number of hypoechoic areas in
   the upper polepotentially suspicious for abscess. No evidence of
   hydronephrosis. Nondistended gallbladder with gallbladder wall edema
   likely secondary to third spacing. No specific son[**Name (NI) 351**] evidence for
   cholecystitis. . The CBD is dilated measuring 0.8 cm without
   intrahepatic bile dilatation. 4. Patent portal vein
   MRI/MRA: Wet Read:  MRI ABD - enlarged left kidney with perfusion
   defects upper and midpole consistent with clinically suspected
   pyelonephritis. No renal vein thrombosis. Renal artey ostia normal.
   small rt renal cyst. CBD 7mm.
   Echo: IMPRESSION: Suboptimal image quality. Mild mitral regurgitation.
   Preserved regional and global left ventricular systolic function.
   Moderate pulmonary hypertension
   Assessment and Plan
   ASSESSMENT AND PLAN: 37 year old female with acute sepsis secondary to
   pyelonephritis with evolving pancytopenia and radiological evidence of
   necrotic pyelonephritis
   .
   #. Sepsis: Secondary to pyelonephritis; CT showed severe pyelo on left
   with necrosis. Correlates with CVA tenderness on exam, however
   unimpressive urinalysis. Etiology unclear at this point, however
   possible leading diagnosis at this point is thrombosis or emboli to the
   kidney that may have occurred primarily and secondarily caused
   pyelonephritis. If it were emboli, unclear source at this point.
   MRI/MRA wet read not apparent for renal vein/artery thrombosis as
   potential cause. Patient continues to be tachycardic, spiking fevers,
   and concerning marked decrease in wbc. BP holding MAPS > 65.
   - Urology following as surgical intervention may be needed
   - f/u cultures
   - continue vanco, cefepime, flagyl for now until cultures speciate
   - Consider changing pain control from morphine to a dilaudid PCA
   - Monitor MAPs> 65
   - f/u CT/MRI
   #.Pancytopenia: Appears acute onset although as OSH labs [**9-14**] show wbc
   14.7, Hct 42.8, Plt 324 with 1 band. This picture may be a
   hemoconcentrated state, so not ideal but certainly markedly different
   than current picture. DIC labs show an elevated FDP, yet nml
   haptoglobin and fibrinogen. Difficult to interpret at this point.
   Patient with no active signs of bleeding. Ddx includes sepsis [**1-1**] acute
   pyelonephritis. Also more concerning is a ?hematological malignancy NOS
   causing severe marrow suppression.
   - trend DIC/ Hemolysis labs q12h; daily LFTs
   - - Hem/Onc does not feel this is DIC or TTP/HUS; likely [**1-1**] sepsis
   with marrow suppression; will ask them today if this presentation could
   be an atypical presentation of an underlying malignant process. Also,
   will discuss what our endpoints are regarding doing a bone marrow
   biopsy.
   - T+C
   - treat for pyelo as below, avoiding abx such as zosyn which may worsen
   throbocytopenia
   - Repeat peripheral smear without shistocytes
   - plt transfusion only if bleeding or plt < 10. pRBC transfusion for
   HCT < 21 or for dramatic acute drops
   .
   # Access: concerning as labs are very difficult to draw with
   peripherals. Patient needs a central line placed.
   - Attempt a Right IJ today. Unlikely to be a candidate for PICC as she
   is febrile
   - Will transfuse platelets during procedure today.
   # Tachycardia: Sinus to 140s. although overall average is trending
   downward. Likely combination of pain, fever, sepsis. Patient with
   pulmonary edema and small effusions and mild desaturation while laying
   flat in CT. Concern for too much volume resuscitation.
   - Careful with IVF hydration as patient appears volume up. Only bolus
   for a decrease in BP
   - Consider changing pain control from morphine to a dilaudid PCA to
   ensure adequate basal and breakthrough pain coverage
   - Fever control with tylenol
   .
   #. ARF: Cr 1.3 improved to 1.0, unclear baseline. [**1-1**] pyelo vs
   pre-renal/ATN from sepsis. Concerning as patient had marked dye load
   yesterday.
   - trend Cr; monitor UOP
   - avoid nephrotoxins
   - spin urine
   - treat for pyelo as above.
   - IVF
s prn for low MAPS
   .
   #. Likely non-gap Metabolic acidosis: likely [**1-1**] aggressive NS
   repletion.
   - trend lytes
   - LR for now, if worsens consider HCO3 IVF.
   .
   #. GERD: hold PPI for now given ability to decrease plt
   - Ranitidine [**Hospital1 7**]
   ICU Care
   Nutrition: Advance to clear liquids today
   Glycemic Control:  None
   Lines:
   18 Gauge - [**2125-9-18**] 09:11 AM
   20 Gauge- [**2125-9-18**]
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient and Boyfriend [**Name (NI) **] [**Name (NI) **] [**Telephone/Fax (1) 10870**]
   Code status: Full code
   Disposition: ICU

2125-09-20 06:38:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2125-9-19**] 02:57 PM
 BLOOD CULTURED - At [**2125-9-19**] 09:30 PM
 URINE CULTURE - At [**2125-9-19**] 09:30 PM
 FEVER - 102.5
F - [**2125-9-19**] 08:00 PM
   - central line placed for better access
   - DIC labs remain stable
   - urology wanted a renal consult, will see her in the morning due to
   unclear cause of left kidney necrosis, urology feels infection is very
   unlikely in this situation
   - started MS contin 30mg Q12h for basal pain control and spaced out the
   IV morphine to 5-10mg q3h:prn
   - patient with some decreased urine output in the evening so was
   bolused with LR
   - patient remains tachycardic, ?PE
   - patient febrile to 102.5 overnight, finally came down with tylenol x
   2 and cooling blanket
   - oxygen requirement increased to 3LNC, patient now using IS
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash; itching p
   Codeine
   Rash; itching p
   Last dose of Antibiotics:
   Cefipime - [**2125-9-19**] 11:00 AM
   Vancomycin - [**2125-9-19**] 08:00 PM
   Metronidazole - [**2125-9-20**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2125-9-20**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-20**] 05:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.8
C (100
   HR: 123 (116 - 136) bpm
   BP: 114/54(69) {97/54(65) - 134/89(98)} mmHg
   RR: 15 (13 - 24) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
              CVP=
   Total In:
                                                                  2,472 mL
                                                                  1,206 mL
   PO:
                                                                    180 mL
                  TF:
   IVF:
                                                                  2,055 mL
                                                                  1,206 mL
   Blood products:
                                                                    237 mL
   Total out:
                                                                  2,340 mL
                                                                    340 mL
   Urine:
                                                                  2,340 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    132 mL
                                                                    866 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, dry MM
   Cardiovascular: S4, (Murmur: Systolic), 1/6 SEM, tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   R > L base)
   Abdominal: Soft, Bowel sounds present, Tender: RUQ > LUQ, Left CVA
   tenderness
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, Rash: 1mm erthyematous macules at sites of
   follicules on BL shins. No ecchymoses.
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   48 K/uL
   8.6 g/dL
   99 mg/dL
   1.0 mg/dL
   17 mEq/L
   2.9 mEq/L
   15 mg/dL
   110 mEq/L
   137 mEq/L
   26.7 %
   4.5 K/uL
        [image002.jpg]
                            [**2125-9-18**]  10:23 AM
                            [**2125-9-18**]  12:52 PM
                            [**2125-9-18**]  08:30 PM
                            [**2125-9-19**]  03:25 PM
                            [**2125-9-20**]  03:42 AM
   WBC
   2.8
   2.5
   3.3
   4.5
   Hct
   28.5
   29.9
   30.4
   26.7
   Plt
   55
   38
   43
   56
   48
   Cr
   1.0
   1.0
   1.0
   Glucose
   97
   53
   99
   Other labs:
   Ca: 7.4, Mg: 1.6, Phos: 3.3
   PT / PTT / INR:16.2/28.8/1.4
   LDH:294 IU/L
   Microbiology:
   Blood Cultures ([**9-18**] and [**9-19**]): NGTD
   Urine Culture ([**9-18**]): no growth
   Urine Culture ([**9-19**]): NGTD
   Imaging:
   Chest X-ray ([**9-19**]): FINDINGS: A central venous access line was newly
   introduced over the right internal jugular vein. The tip of the line
   projects over the inferior SVC. There is no evidence of pneumothorax,
   no evidence of other complications. The pre-existing small left-sided
   pleural effusion has increased in extent. As a consequence, there is a
   newly appeared retrocardiac atelectasis. The transparency of the lung
   bases also are decreased, suggesting presence of a right pleural
   effusion. No focal parenchymal opacities suggesting pneumonia. In the
   interval, the size of the cardiac silhouette has minimally increased.
   Assessment and Plan
   ASSESSMENT AND PLAN: 37 year old female with acute sepsis secondary to
   pyelonephritis with evolving pancytopenia and radiological evidence of
   necrotic pyelonephritis
   .
   #. Sepsis: Secondary to pyelonephritis; CT showed severe pyelo on left
   with necrosis. Correlates with CVA tenderness on exam, however
   unimpressive urinalysis. Etiology unclear at this point, however
   possible leading diagnosis at this point is thrombosis or emboli to the
   kidney that may have occurred primarily and secondarily caused
   pyelonephritis. If it were emboli, unclear source at this point.
   MRI/MRA wet read not apparent for renal vein/artery thrombosis as
   potential cause. Patient continues to be tachycardic, spiking fevers,
   and concerning marked decrease in wbc. BP holding MAPS > 65.
   - Urology following as surgical intervention may be needed
   - f/u cultures
   - continue vanco, cefepime, flagyl for now until cultures speciate
   - Consider changing pain control from morphine to a dilaudid PCA
   - Monitor MAPs> 65
   - f/u CT/MRI
   #.Pancytopenia: Appears acute onset although as OSH labs [**9-14**] show wbc
   14.7, Hct 42.8, Plt 324 with 1 band. This picture may be a
   hemoconcentrated state, so not ideal but certainly markedly different
   than current picture. DIC labs show an elevated FDP, yet nml
   haptoglobin and fibrinogen. Difficult to interpret at this point.
   Patient with no active signs of bleeding. Ddx includes sepsis [**1-1**] acute
   pyelonephritis. Also more concerning is a ?hematological malignancy NOS
   causing severe marrow suppression.
   - trend DIC/ Hemolysis labs q12h; daily LFTs
   - - Hem/Onc does not feel this is DIC or TTP/HUS; likely [**1-1**] sepsis
   with marrow suppression; will ask them today if this presentation could
   be an atypical presentation of an underlying malignant process. Also,
   will discuss what our endpoints are regarding doing a bone marrow
   biopsy.
   - T+C
   - treat for pyelo as below, avoiding abx such as zosyn which may worsen
   throbocytopenia
   - Repeat peripheral smear without shistocytes
   - plt transfusion only if bleeding or plt < 10. pRBC transfusion for
   HCT < 21 or for dramatic acute drops
   .
   # Access: concerning as labs are very difficult to draw with
   peripherals. Patient needs a central line placed.
   - Attempt a Right IJ today. Unlikely to be a candidate for PICC as she
   is febrile
   - Will transfuse platelets during procedure today.
   # Tachycardia: Sinus to 140s. although overall average is trending
   downward. Likely combination of pain, fever, sepsis. Patient with
   pulmonary edema and small effusions and mild desaturation while laying
   flat in CT. Concern for too much volume resuscitation.
   - Careful with IVF hydration as patient appears volume up. Only bolus
   for a decrease in BP
   - Consider changing pain control from morphine to a dilaudid PCA to
   ensure adequate basal and breakthrough pain coverage
   - Fever control with tylenol
   .
   #. ARF: Cr 1.3 improved to 1.0, unclear baseline. [**1-1**] pyelo vs
   pre-renal/ATN from sepsis. Concerning as patient had marked dye load
   yesterday.
   - trend Cr; monitor UOP
   - avoid nephrotoxins
   - spin urine
   - treat for pyelo as above.
   - IVF
s prn for low MAPS
   .
   #. Likely non-gap Metabolic acidosis: likely [**1-1**] aggressive NS
   repletion.
   - trend lytes
   - LR for now, if worsens consider HCO3 IVF.
   .
   #. GERD: hold PPI for now given ability to decrease plt
   - Ranitidine [**Hospital1 7**]
   ICU Care
   Nutrition: Clear liquids
   Glycemic Control:
   Lines:
   20 Gauge - [**2125-9-18**] 08:19 PM
   Multi Lumen - [**2125-9-19**] 02:57 PM
   Prophylaxis:
   DVT: Pneumo boots
   Stress ulcer: H2 Blocker
   VAP:
   Comments:
   Communication:  Comments: Patient and her boyfriend
   [**Name (NI) 36**] status: Full code
   Disposition:

2125-09-21 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Urologist needs Clotting expert Dr. [**First Name4 (NamePattern1) 84**] [**Last Name (NamePattern1) 10937**] clearance before
   surgical removal of kidney
   - We need Father's hx of clotting disorder for Dr. [**Last Name (STitle) **] (urology) as
   well
   - pt spiked to [**Age over 90 516**]F 8:30pm, tachycardia into 130s ; was in more pain to
   right side but given IV morphine 2mg and felt better but still
   tachycardic 130s
   - No need for lasix as patient is diuresing > 150cc/hr
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash; itching p
   Codeine
   Rash; itching p
   Last dose of Antibiotics:
   Cefipime - [**2125-9-20**] 10:07 AM
   Vancomycin - [**2125-9-20**] 08:04 PM
   Metronidazole - [**2125-9-20**] 11:48 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2125-9-21**] 02:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-9-21**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
F) ([**2115**])
   Tcurrent: 37.8
C (100
   HR: 114 (102 - 133) bpm
   BP: 129/76(89) {98/39(55) - 153/80(93)} mmHg
   RR: 20 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
    CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  2,980 mL
                                                                    311 mL
   PO:
                                                                    540 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,440 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  3,670 mL
                                                                  1,270 mL
   Urine:
                                                                  3,670 mL
                                                                  1,270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -690 mL
                                                                   -959 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, MMM
   Cardiovascular: regular rhythm, 1/6 SEM, tachycardic but improving
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), Breath Sounds: Crackles :
   R > L base and decreased bilateral bases
   Abdominal: Soft, Bowel sounds present, Tender: RUQ > LUQ, Left CVA
   tenderness
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed, Rash: 1mm erthyematous macules at sites of
   follicules on BL shins. No ecchymoses.
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   39 K/uL
   9.1 g/dL
   91 mg/dL
   0.9 mg/dL
   17 mEq/L
   3.5 mEq/L
   13 mg/dL
   113 mEq/L
   138 mEq/L
   28.9 %
   9.7 K/uL
        [image002.jpg]
                            [**2125-9-18**]  10:23 AM
                            [**2125-9-18**]  12:52 PM
                            [**2125-9-18**]  08:30 PM
                            [**2125-9-19**]  03:25 PM
                            [**2125-9-20**]  03:42 AM
                            [**2125-9-20**]  02:51 PM
                            [**2125-9-21**]  05:02 AM
   WBC
   2.8
   2.5
   3.3
   4.5
   9.7
   Hct
   28.5
   29.9
   30.4
   26.7
   28.9
   Plt
   55
   38
   43
   56
   48
   39
   Cr
   1.0
   1.0
   1.0
   1.0
   0.9
   Glucose
   97
   53
   99
   164
   91
   Other labs: PT / PTT / INR:17.3/28.8/1.5, ALT / AST:17/15, Alk Phos / T
   Bili:98/0.7, Differential-Neuts:82.1 %, Band:0.0 %, Lymph:13.1 %,
   Mono:3.8 %, Eos:0.9 %, D-dimer:[**Numeric Identifier 10938**] ng/mL, Fibrinogen:808 mg/dL,
   Lactic Acid:1.2 mmol/L, LDH:361(294) IU/L, Ca++:7.9 mg/dL, Mg++:1.7
   mg/dL, PO4:3.1 mg/dL
   Peripheral Smear: No shistocytes
   ANCA: Negative
   Micro: Ucx [**9-18**] and [**9-19**] No growth; BCx: [**9-18**] and [**9-19**] NGTD
   Radiology: None
   Assessment and Plan
    37 year old female with acute sepsis likely secondary to
   pyelonephritis with improving pancytopenia and radiological evidence of
    a necrotic kidney.
   .
   #. Sepsis: Likely secondary to infarcted kidney that secondarily led to
   pyelonephritis; CT showed severe necrosis on left that may be
   consistent with pyleonephritis, now likely super infected but as yet
   unable to speciate an organism.  Abdominal exam is improved today, but
   continues to spike fevers, likely related to continued source of
   infection, so she will require a prolonged antibiotic course.
   - Urology following as surgical intervention may be needed, but none
   acutely
   - Concern for family h/o clotting; given her father has a h/o Factor V
   Leiden. Unlikely to be source of renal infarction as this disorder
   causes venous clotting, not arterial per hem/onc. Spoke with father
   surgeon, Dr. [**Last Name (STitle) 10947**] in [**State 863**] who gave the information to the patient
   who relayed to us her father
s diagnosis.
   - Hem/Onc does not feel that factor V leiden, if she has this disorder
   should hinder patient from any surgery if she needs it.
   - Will send anti-phsopholipid antibody as this can cause an arterial
   infarct per hem/onc.
   - f/u cultures
   - D/C vancomycin as gram positives are unlikely in this case.
   - continue cefepime, and flagyl for now, will likely need an empiric 14
   day course, today is day [**2-10**]
   - Pain control morphine PCA as pain was not controlled on Morphine 2 mg
   q 3 hours and patient was too sedated on MS Contin 30 mg q 12 hours
   .
   # Sinus Tachycardia: Peaked to the 140s yesterday in setting of pain,
   fever, and sepsis. Continues to be in sinus tachycardia although
   improved
   - No further IVF for now unless patient becomes hypotensive as she is
   volume overloaded with bilateral pleural effusions
   - continue pain control with Morphine PCA and titrate to patient
   comfort
   .
   #.Pancytopenia: Improved.  Appears acute onset although as OSH labs
   [**9-14**] show wbc 14.7, Hct 42.8, Plt 324 with 1 band.  DIC labs show an
   elevated FDP, yet normal haptoglobin and fibrinogen, and mildly
   elevated coags, all of which have remained stable.  No need to further
   trend DIC labs since her labs have been stable, will readdress with any
   changes in hemodynamic status.
   - Hem/Onc does not feel this is DIC or TTP/HUS; likely [**1-1**] sepsis with
   marrow suppression; and counts have now stabilized and are trending up
   .
   # Access: right IJ placed for better access, would like to transition
   patient to a PICC since she will need at least 14 days of antibiotics,
   will discuss with IV team since patient continues to be febrile and may
   continue to be febrile as the source of her infection (necrotic kidney)
   is still in place.  Will f/u blood cultures and attempt placement with
   48hours of negative cx
   .
   #. ARF: Cr stable at 0.9, currently with only one functional kidney so
   will avoid all nephrotoxins and monitor urine output, which has
   recently increased likely due to autodiuresis.
   - treat for pyelo as above.
   - F/u renal recs
   .
   #. Likely non-gap Metabolic acidosis: likely [**1-1**] aggressive NS
   repletion.
   - LR if she needs IVF
   .
   #. GERD: hold PPI for now given ability to decrease plt
   - Ranitidine [**Hospital1 7**]
   ICU Care
   Nutrition: Advance to regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-9-19**] 02:57 PM
   Prophylaxis:
   DVT: Pneumo boots while platelets remain under 50,000, if they increase
   will restart SQ heparin
   Stress ulcer: H2 Blocker
   VAP:
   Comments:
   Communication:  Comments: Patient and her boyfriend
   [**Name (NI) 36**] status: Full code
   Disposition: Call out to floor, PT consult and get patient out of bed